US06355636B1
N-[5-(3-Bromo-phenylamino)-6-cyano-[1.8]naphthyridin-3-yl]-acrylamide
To a solution of 1.4 g (4.12 mmol) of 6-amino-4-(3-bromo-phenylamino)-[1.8]naphthyridine-3-carbonitrile and 1.67 g (16.5 mmol) of N-methyl-morpholine in a mixture of 6 ml of N,N-dimethylformamide and 35 ml of tetrahydrofuran was added with stirring at 0° C. a solution of 0.52 g (5.76 mmol) of acryloyl chloride in 10 ml of tetrahydrofuran over 10 min. After 3 hr at 0° C., the most of the solvent was removed saturated sodium bicarbonate was added. Solid was collected and washed with water. After air drying, the solid was extracted with 500 ml of boiling tetrahydrofuran. The tetrahydrofuran was removed and the residue was purified on a silica gel column eluting with ethyl acetate-methanol mixtures giving 0.29 g of the title compound as a yellow solid: mass spectrum (electrospray, m/e): M+H 394, 396.

reactant | 6-amino-4-(3-bromo-phenylamino)-[1.8]naphthyridine-3-carbonitrile | 4.12 mmol, 1.4 g | NC=1C=C2C(=C(C=NC2=NC1)C#N)NC1=CC(=CC=C1)Br | C15H10BrN5
reactant | N-methyl-morpholine | 16.5 mmol, 1.67 g | CN1CCOCC1 | C5H11NO
reactant | acryloyl chloride | 5.76 mmol, 0.52 g | C(C=C)(=O)Cl | C3H3ClO
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[5-(3-Bromo-phenylamino)-6-cyano-[1.8]naphthyridin-3-yl]-acrylamide | 0.29 g | BrC=1C=C(C=CC1)NC1=C2C=C(C=NC2=NC=C1C#N)NC(C=C)=O | C18H12BrN5O
